US06949542B2
7,8-Dichloro-4-(3-pyrimidin-4-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from 4,5-dichlorophenylenediamine (89 mg, 0.5 mmol) and 3-oxo-3-(3-pyrimidin-4-yl-phenyl)-propionic acid tert-butyl ester (Example K43) (164 mg, 0.55 mmol) by refluxing in xylene according to the general procedure M. Obtained as a light yellow solid (63 mg).

reactant | 4,5-dichlorophenylenediamine | 0.5 mmol, 89 mg | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | 3-oxo-3-(3-pyrimidin-4-yl-phenyl)-propionic acid tert-butyl ester | 0.55 mmol, 164 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=NC=NC=C1)=O)=O | C17H18N2O3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 7,8-Dichloro-4-(3-pyrimidin-4-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=NC=NC=C2)=O)C=C1Cl | C19H12Cl2N4O
